US06921759B2
Step 7: Preparation of sodium 5-(1,1-dioxido-1,2-thiazinan-2-yl)-7-({[2-(methylsulfonyl)benzyl]amino}carbonyl)-1,6-naphthyridin-8-olate
5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-N-[2-(methylsulfonyl)benzyl]-1,6-naphthyridine-7-carboxamide (53 mg, 0.108 mmol) was suspended in a 1:1 mixture of ethanol and acetone (1 mL each). NaOH (130 uL, 1 M) was added and the starting material dissolved. After 1 hour the sodium salt precipitated. The sample was concentrated in vacuo to afford the desired material as a yellow solid.

reactant | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-N-[2-(methylsulfonyl)benzyl]-1,6-naphthyridine-7-carboxamide | 0.108 mmol, 53 mg | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=CC=C1)S(=O)(=O)C)O)=O | C21H22N4O6S2
reactant | ethanol | C(C)O | C2H6O
reactant | NaOH | 1 M, 130 uL | [OH-].[Na+]
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | sodium 5-(1,1-dioxido-1,2-thiazinan-2-yl)-7-({[2-(methylsulfonyl)benzyl]amino}carbonyl)-1,6-naphthyridin-8-olate | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=CC=C1)S(=O)(=O)C)[O-])=O.[Na+] | InChI=1S/C21H22N4O6S2.Na/c1-32(28,29)16-9-3-2-7-14(16)13-23-21(27)18-19(26)17-15(8-6-10-22-17)20(24-18)25-11-4-5-12-33(25,30)31;/h2-3,6-10,26H,4-5,11-13H2,1H3,(H,23,27);/q;+1/p-1
